US09290496B2
Step 2: Preparation of 2-fluoro-9-isopropyl-N-(1-methyl-1H-pyrazol-4-yl)-9H -purin-6-amine
A mixture of 6-chloro-2-fluoro-9-isopropyl-9H-purine (215 mg, 1 mmol), 1-methyl-1H-pyrazol-4-amine (116 mg, 1.2 mmol) in nBuOH (5 mL, 0.2 M) and DIPEA (0.7 mL, 4 mmol) was stirred at ambient temperature for 2 days. LCMS showed major title product with M+1=276.2 amu. This crude product was used in the following step with no isolation.

reactant | 6-chloro-2-fluoro-9-isopropyl-9H-purine | 1 mmol, 215 mg | ClC1=C2N=CN(C2=NC(=N1)F)C(C)C | C8H8ClFN4
reactant | 1-methyl-1H-pyrazol-4-amine | 1.2 mmol, 116 mg | CN1N=CC(=C1)N | C4H7N3
reactant | DIPEA | 4 mmol, 0.7 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | nBuOH | 0.2 M, 5 mL | C(CCC)O | C4H10O
product | 2-fluoro-9-isopropyl-N-(1-methyl-1H-pyrazol-4-yl)-9H -purin-6-amine | FC1=NC(=C2N=CN(C2=N1)C(C)C)NC=1C=NN(C1)C | C12H14FN7
